US09388161B2
A mixture of (S)-(6-bromo-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.100 g, 0.26 mmol), tetrakis(triphenylphosphine)palladium (O) (0.30 g, 0.03 mmol), and zinc cyanide (0.036 g, 0.31 mmol) in N,N-dimethylformamide (2 mL) was heated with microwave irradiation for 30 min at 160° C. The reaction mixture was cooled to room temperature, poured into ethyl acetate (10 mL), washed with water (3×2 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 1:8, ethyl acetate/petroleum ether) to afford (5)-1-(cyclopropanecarbonyl)-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinoline-6-carbonitrile (0.27 g, 32%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ ppm 0.74-0.82 (m, 1H), 0.90-1.10 (m, 2H), 1.10-1.18 (m, 3H), 1.28-1.39 (m, 1H), 1.49-1.61 (m, 1H), 1.80-1.91 (m, 1H), 2.10-2.22 (m, 1H), 2.39-2.51 (m, 1H), 2.67-2.80 (m, 1H), 4.71-4.89 (m, 1H), 6.85 (d, J=8.10 Hz, 2H), 7.08 (t, J=7.50 Hz, 1H), 7.28-7.38 (m, 2H), 7.40-7.47 (m, 1H), 7.49-7.55 (m, 1H). MS (ESI, pos. ion) m/z 333 [M+H]+.

reactant | (S)-(6-bromo-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 0.26 mmol, 0.100 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1=CC=CC=C1 | C20H20BrNO2
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 0.30 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 0.31 mmol, 0.036 g | [C-]#N.[Zn+2].[C-]#N
product | (5)-1-(cyclopropanecarbonyl)-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinoline-6-carbonitrile | 0.27 g, 32% | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C#N)OC1=CC=CC=C1)C | C21H20N2O2
